US08859549B2
4-(3-methylthiophen-2-yl)phthalazin-1(2H)-one
A mixture of 2-(3-methylthiophene-2-carbonyl)benzoic acid (0.446 g, 1.81 mmol) and hydrazine hydrate (0.41 mL, 7.3 mmol) in ethanol (6 mL) was stirred at 80° C. overnight, concentrated, and azeotroped with toluene to provide the title compound, which was used without purification: 1H NMR (300 MHz, DMSO-d6) δ 8.41-8.23 (m, 1H), 8.01-7.80 (m, 2H), 7.68 (d, J=5.1, 1H), 7.62-7.42 (m, 1H), 7.10 (d, J=5.1, 1H), 2.08 (s, 3H).

reactant | 2-(3-methylthiophene-2-carbonyl)benzoic acid | 1.81 mmol, 0.446 g | CC1=C(SC=C1)C(=O)C1=C(C(=O)O)C=CC=C1 | C13H10O3S
reactant | hydrazine hydrate | 7.3 mmol, 0.41 mL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-(3-methylthiophen-2-yl)phthalazin-1(2H)-one | CC1=C(SC=C1)C1=NNC(C2=CC=CC=C12)=O | C13H10N2OS
